US05559266
i) 1-Chloroethyl Thenyl Carbonate
1-Chloroethyl chloroformate (28.6 g, 0.2 mol) and 2-hydroxymethyl-thiophene (20.6 g, 0.18 mol) were dissolved in chloroform (220 ml) at 0° C. Pyridine (15.8 g, 0.2 mol) was added dropwise during 35 minutes maintaining the temperature below 10° C. After stirring at room temperature for 24 hours the precipitate was filtered off. The organic phase was washed three times with 1 normal hydrochloric acid, once with a saturated sodium hydrogen carbonate solution and finally twice with water. The organic solution was dried with magnesium sulfate and the solvent was removed at reduced pressure. The residue was distilled in vacuo. Yield: 36.5 g. 1H-NMR (DMSO-d6): delta=1.76 (CH3); 5.41 (CH2); 6.53 (CHCH3); 7.04, 7.25; 7.59 ppm (thiophene).

reactant | 1-Chloroethyl chloroformate | 0.2 mol, 28.6 g | ClC(=O)OC(C)Cl | C3H4Cl2O2
reactant | 2-hydroxymethyl-thiophene | 0.18 mol, 20.6 g | OCC=1SC=CC1 | C5H6OS
reactant | Pyridine | 0.2 mol, 15.8 g | N1=CC=CC=C1 | C5H5N
solvent | chloroform | 220 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-Chloroethyl Thenyl Carbonate | C(OC(C)Cl)(OCC1=CC=CS1)=O | C8H9ClO3S
